US07960375B2
8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3-propionyl-3H-2,3-benzodiazepine
A solution of 1.78 g (5.4 mmoles) of 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine in 18 ml of propionic anhydride is stirred in an oil bath of 130 to 140° C. for 4 hours. The reaction mixture is poured onto about 100 g of crushed ice, extracted first with 50 ml, then twice with 20 ml each of dichloromethane. The organic phase is washed first with 30 ml of saturated sodium carbonate, then three times with 30 ml each of water and dried over anhydrous sodium sulfate. The gum obtained after evaporation is purified by column chromatography, and the crude product is recrystallized from ethanol. Thus 1.01 g (49%) of the desired compound melting at 134-138° C. is obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine | 5.4 mmoles, 1.78 g | ClC1=CC2=C(CC(=NN=C2C2=CC(=C(C=C2)[N+](=O)[O-])C)C)C=C1 | C17H14ClN3O2
reactant | propionic anhydride | 18 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3-propionyl-3H-2,3-benzodiazepine | 1.01 g, 49% | ClC1=CC2=C(C=C(N(N=C2C2=CC(=C(C=C2)[N+](=O)[O-])C)C(CC)=O)C)C=C1 | C20H18ClN3O3
